US05281612
1-Benzyl-4-(1-hydroxyiminoethyl)-2-oxopyrrolidine (16.81 g, 0.072 mole), was hydrogenated in saturated methanolic ammonia (200 mL) at 50 psi and 25° with Raney nickel (5 g) for 23 hours. Additional Raney nickel (5 g) was added and hydrogenation continued for three hours. The reaction was Celite filtered and the solvent was removed under reduced pressure to give 4-(1-aminoethyl)-1-benzyl-2-oxopyrrolidine (14.4 g, 91%) as a brown oil which solidified on standing to a brown solid.

reactant | 1-Benzyl-4-(1-hydroxyiminoethyl)-2-oxopyrrolidine | 0.072 mole, 16.81 g | C(C1=CC=CC=C1)N1C(CC(C1)C(C)=NO)=O | C13H16N2O2
solvent | ammonia | 200 mL | N | H3N
catalyst | Raney nickel | 5 g | [Ni] | Ni
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 4-(1-aminoethyl)-1-benzyl-2-oxopyrrolidine | 14.4 g, 91% | NC(C)C1CC(N(C1)CC1=CC=CC=C1)=O | C13H18N2O
